US07253192B2
B] 2-Methyl-2-{2-methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester
The synthesis was performed following a procedure of Stara, Irena G.; Stary, Ivo; Kollarovic, Adrian; Teply, Filip; Saman, David; Fiedler, Pavel, Coupling reactions of halobenzenes with alkynes. The synthesis of phenylacetylenes and symmetrical or unsymmetrical 1,2-diphenylacetylenes, Collect. Czech. Chem. Commun. (1999), 64(4), 649-672. To a degassed (argon) solution of 178 mg (0.60 mmol) 1-iodo-4-trifluoromethoxy-benzene in 2 ml piperidine was added 29 mg (0.03 mmol) Pd(PPh3)4 and 5 mg (0.03 mmol) CuI. The reaction mixture was stirred at 50° C. for 10 min, then a solution of 152 mg (0.50 mmol) 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester (example 13A]) in 2 ml piperidine was added dropwise within 1 h. During the addition the oil bath was slowly heated to 80° C. starting after 30 min. The reaction mixture was stirred at this temperature for 3 h and then extracted with chilled aqueous 10% KHSO4/Et2O (three times). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated. Purification by flash-chromatography on silica gel (n-heptane/EtOAc 95:5 to 9:1) yielded 190 mg of the title compound as a light yellow viscous oil.

reactant | 1-iodo-4-trifluoromethoxy-benzene | 0.60 mmol, 178 mg | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester | 0.50 mmol, 152 mg | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#C)C)C)=O | C18H24O4
solvent | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | piperidine | 2 ml | N1CCCCC1 | C5H11N
catalyst | Pd(PPh3)4 | 0.03 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.03 mmol, 5 mg | [Cu]I
product | 2-Methyl-2-{2-methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester | 190 mg | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)C)C)=O | C25H27F3O5
